US06348474B1
Methyl 3-(4-(benzylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (100 mg) was dissolved in methanol (1 ml), and benzaldehyde (39 mg), zinc chloride (49 mg) and sodium cyanoborohydride (23 mg) were added. The mixture was stirred at room temperature for 2 hr and refluxed under heating for 15 min. Benzaldehyde (16 mg), zinc chloride (21 mg) and sodium cyanoborohydride (10 mg) were added and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added ice water, and then a saturated aqueous sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate, and the organic layer was washed successively with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The filtrate was concentrated under reduced pressure. Hexane was added to the residue and the precipitated pale-yellow crystals were washed, collected by filtration and dried under reduced pressure to give the objective compound (120 mg).

reactant | Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 100 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | benzaldehyde | 39 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 23 mg | C(#N)[BH3-].[Na+]
reactant | Benzaldehyde | 16 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 10 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | zinc chloride | 49 mg | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 21 mg | [Cl-].[Zn+2].[Cl-]
product | Methyl 3-(4-(benzylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 120 mg | C(C1=CC=CC=C1)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C23H21ClN4O2
